US07501430B2
12a: Preparation of tert-butyl 4-({4-[6-(4-fluoro-3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-yl}amino)piperidine-1-carboxylate
A mixture of 3-(dimethylamino)-1-[6-(4-fluoro-3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]prop-2-en-1-one (0.537 g, 1.55 mmol) and tert-butyl 4-{[(Z)-amino(imino)methyl]amino}piperidine-1-carboxylate hydrochloride (0.650 g, 2.33 mmol) was diluted with 13 ml of absolute ethanol and treated with 1.35 eq. of a 21% w/w solution of sodium ethoxide in ethanol (780 μl) to form a reaction mixture. The reaction mixture was heated to reflux for 24 hours. Volatiles were removed in vacuo and the residue was taken up in 50 ml of ethyl acetate and 50 ml of water. The phases were separated and the aqueous phase was extracted with 50 ml of ethyl acetate. The combined organic extracts were washed with 100 ml of water, and then with a saturated sodium chloride solution (100 ml). The organic phase was dried with sodium sulfate, filtered and concentrated in vacuo, to give a brown oil. The product was purified by flash chromatography on silica gel (gradient 50% to 75% ethyl acetate in hexanes) to yield 0.713 g of a pale yellow solid (88%). 400 MHz 1H NMR (DMSO-d6 at 60° C.) δ: 8.71 (br. s, 1H), 8.11 (d, J=5.5 Hz, 1H), 7.45 (d, J=4.3 Hz, 1H), 7.35 (dd, J=8.2, 2.0 Hz, 1H), 7.26 (dd, J=11.3, 8.2 Hz, 1H), 7.19-7.12 (m, 2H), 6.39 (d, J=5.1 Hz, 1H), 3.98-3.87 (m, 3H), 3.83 (s, 3H), 2.91 (t, J=11.5 Hz, 2H), 1.94-1.87 (m, 2H), 1.47-1.35 (m, 2H), 1.42 (s, 9H). LCMS: 525 [M+H].

reactant | 3-(dimethylamino)-1-[6-(4-fluoro-3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]prop-2-en-1-one | 1.55 mmol, 0.537 g | CN(C=CC(=O)C1=C(N=C2SC=CN21)C2=CC(=C(C=C2)F)OC)C | C17H16FN3O2S
reactant | tert-butyl 4-{[(Z)-amino(imino)methyl]amino}piperidine-1-carboxylate hydrochloride | 2.33 mmol, 0.650 g | Cl.N/C(=N/[H])/NC1CCN(CC1)C(=O)OC(C)(C)C
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 13 ml | C(C)O | C2H6O
solvent | ethanol | 780 μl | C(C)O | C2H6O
product | tert-butyl 4-({4-[6-(4-fluoro-3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-yl}amino)piperidine-1-carboxylate | 0.713 g, 88% | FC1=C(C=C(C=C1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)OC | C26H29FN6O3S
